US04814345
2.1 g of 2-[3-(N,N-diethylamino)propylaminocarbonyl]-3-methoxy-1-phenylindole hydrochloride are dissolved in 5 ml of methanol and mixed with 2.5 ml concentrated hydrochloric acid. The reaction mixture is boiled for 3 h under reflux and subsequently evaporated under vacuum. 1.66 g (82% of theoretical) 2-[3-(N,N-diethylamino)propylaminocarbonyl]-3-hydroxy-1-phenylindole hydrochloride are obtained as an oily substance. IR: 1647 cm-1 (CO amide).

reactant | 2-[3-(N,N-diethylamino)propylaminocarbonyl]-3-methoxy-1-phenylindole hydrochloride | 2.1 g | Cl.C(C)N(CC)CCCNC(=O)C=1N(C2=CC=CC=C2C1OC)C1=CC=CC=C1
reactant | hydrochloric acid | 2.5 ml | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
product | 2-[3-(N,N-diethylamino)propylaminocarbonyl]-3-hydroxy-1-phenylindole hydrochloride | 1.66 g, 82% | Cl.C(C)N(CC)CCCNC(=O)C=1N(C2=CC=CC=C2C1O)C1=CC=CC=C1 | InChI=1S/C22H27N3O2.ClH/c1-3-24(4-2)16-10-15-23-22(27)20-21(26)18-13-8-9-14-19(18)25(20)17-11-6-5-7-12-17;/h5-9,11-14,26H,3-4,10,15-16H2,1-2H3,(H,23,27);1H
